### PR TITLE
Add Generic OpInfo to IRContext and Operation

### PR DESCRIPTION
**Pull request by tobiasgrosser**
We introduce a new typeclass `OpInfo` which augments an inductive carrying the `OpCode`s with information about which `Properties` are carried by a given `OpCode`. These changes make most of the `IR` datastructures generic over the specific set of `OpCodes` we are using. `OpCode.lean` still leaks into the IR datastructures via the `Properties.lean` include. In subsequent PRs, we will eliminate this dependency. When finished, one can add operations without recompiling our core data structures.

The main changes in this PR are in `OpInfo.lean`, as well as in `Operation` and `IRContext`. Otherwise, we mostly funnel the `OpInfo` type through the different files.

We do not yet generalize all of our Parser/Printer/Interpreter infrastructure but hardcode them to `OpCode`. Even the rewriters are not as generic as they could be. We leave this to future PRs to keep this PR focused.

### CODE REVIEW

File: Veir/Properties.lean [hunk 1]
```diff
@@ -46,6 +46,57 @@ instance (opCode : OpCode) : Hashable (propertiesOf opCode) := by
...
+Define a typeclass hasProperties
+-/
+class HasProperties (opCodeTy : Type)
+    extends Hashable opCodeTy, Repr opCodeTy, Inhabited opCodeTy where
+  propertiesOf : opCodeTy → Type
+  propertiesHash {opCode : opCodeTy} : Hashable (propertiesOf opCode)
+  propertiesDefault {opCode : opCodeTy} : Inhabited (propertiesOf opCode)
+  propertiesRepr {opCode : opCodeTy} : Repr (propertiesOf opCode)
+  propertiesDecideableEq {opCode : opCodeTy} : DecidableEq (propertiesOf opCode)
+  decideableEq : DecidableEq (opCodeTy)
```
Comment (math-fehr) [inline Veir/Properties.lean]: I feel that this field doesn't really correspond to a `HasProperties` structure.
Should we maybe just name this class `OpCode` or something similar, since it represents what at opcodes should respect?

**Comment by math-fehr** [comment]
What I am wondering is how we should encode something like `IRContext.create`, which requires a module. Would it make sense to have in the typeclass a field to get a `builtin.module` opcode? We will need something similar for the parser.

File: Veir/Properties.lean (hunk 1 above)
Comment (tobiasgrosser) [reply Veir/Properties.lean]: I renamed this to `OpInfo`.

File: Veir/IR/OpInfo.lean [hunk 2]
```diff
@@ -0,0 +1,36 @@
...
+
+public section
+
+/--
+The `OpInfo` type class provides information about the properties of an
+operation and how to hash, represent, and compare them for equality. It also
+provides a type family `propertyOf` that maps an operation code to the type of
+its properties
+-/
+class OpInfo (ops: Type)
```
Comment (math-fehr) [inline Veir/IR/OpInfo.lean]: I guess I would rename `ops` to `opCode` or something similar?

Comment (tobiasgrosser) [reply Veir/IR/OpInfo.lean]: Renamed to `opCode`.

File: Veir/IR/Basic.lean [hunk 3]
```diff
@@ -172,31 +172,33 @@ structure Operation where
...
   attrs : DictionaryAttr
   -- This should be replaced with an arbitrary user object
-  properties : propertiesOf opType
+  properties : OpInfo.propertiesOf opType
   blockOperands : Array BlockOperand
   regions : Array RegionPtr
   operands : Array OpOperand
 deriving Inhabited, Repr, Hashable
 
+variable { opInfo } [OpInfo opInfo]
```
Comment (math-fehr) [inline Veir/IR/Basic.lean]:
```suggestion
variable {opInfo : Type} [OpInfo opInfo]
```

File: Veir/IR/Basic.lean [hunk 4]
```diff
@@ -643,34 +647,34 @@ theorem getProperties!_eq_getProperties {op : OperationPtr} (inBounds : op.InBou
     op.getProperties! ctx opCode = op.getProperties ctx opCode inBounds (by grind) := by
   grind [getProperties, getProperties!]
 
-def setProperties (op : OperationPtr) (ctx : IRContext)
-    (newProperties : propertiesOf opCode)
+def setProperties {opCode : opInfo } (op : OperationPtr) (ctx : IRContext opInfo)
```
Comment (math-fehr) [inline Veir/IR/Basic.lean]:
```suggestion
def setProperties {opCode : opInfo} (op : OperationPtr) (ctx : IRContext opInfo)
```

File: Veir/IR/Fields.lean [hunk 5]
```diff
@@ -77,12 +80,12 @@ attribute [local grind =] Option.maybe_def
 section get
 
 /-
-  Theorems combining `get` methods with `IRContext.fieldsInBounds`.
+  Theorems combining `get` methods with `IRContext opInfo.fieldsInBounds`.
```
Comment (math-fehr) [inline Veir/IR/Fields.lean]:
```suggestion
  Theorems combining `get` methods with `IRContext.fieldsInBounds`.
```

File: Veir/IR/GetSet.lean [hunk 6]
```diff
@@ -5,6 +5,9 @@ import all Veir.IR.Basic
 
 namespace Veir
 
+variable { opInfo : Type} [OpInfo opInfo]
```
Comment (math-fehr) [inline Veir/IR/GetSet.lean]:
```suggestion
variable {opInfo : Type} [OpInfo opInfo]
```

File: Veir/IR/InBounds.lean [hunk 7]
```diff
@@ -6,6 +6,8 @@ import Veir.ForLean
 
 namespace Veir
 
+variable { opInfo : Type} [OpInfo opInfo]
```
Comment (math-fehr) [inline Veir/IR/InBounds.lean]:
```suggestion
variable {opInfo : Type} [OpInfo opInfo]
```

File: Veir/IR/OpInfo.lean [hunk 8]
```diff
@@ -0,0 +1,36 @@
...
+
+namespace Veir
+
+public section
+
+/--
+The `OpInfo` type class provides information about the properties of an
+operation and how to hash, represent, and compare them for equality. It also
+provides a type family `propertyOf` that maps an operation code to the type of
+its properties
```
Comment (math-fehr) [inline Veir/IR/OpInfo.lean]:
```suggestion
The `OpInfo` type class provides information about opcodes and their properties
and how to hash, represent, and compare them for equality. It also
provides a type family `propertyOf` that maps an operation code to the type of
its properties
```
Because we also keep the OpCode type here

File: Veir/Parser/MlirParser.lean [hunk 9]
```diff
@@ -98,7 +100,7 @@ def defineBlock (name : ByteArray) (ip : BlockInsertPoint) : MlirParserM BlockPt
       | throw "internal error: failed to insert block"
     setContext ctx
     /- Notify the parsing context that the block is defined. -/
-    modifyThe MlirParserState (fun state =>
+    modifyThe (MlirParserState) (fun state =>
```
Comment (math-fehr) [inline Veir/Parser/MlirParser.lean]:
```suggestion
    modifyThe MlirParserState (fun state =>
```
probably not needed anymore?

File: Veir/Parser/MlirParser.lean [hunk 10]
```diff
@@ -110,7 +112,7 @@ def defineBlock (name : ByteArray) (ip : BlockInsertPoint) : MlirParserM BlockPt
       | throw "internal error: failed to create block"
     setContext ctx
     /- Notify the parsing context that the block is defined. -/
-    modifyThe MlirParserState fun s =>
+    modifyThe (MlirParserState) fun s =>
```
Comment (math-fehr) [inline Veir/Parser/MlirParser.lean]:
```suggestion
    modifyThe MlirParserState fun s =>
```

File: Veir/Parser/MlirParser.lean [hunk 11]
```diff
@@ -132,7 +134,7 @@ def defineBlockUse (name : ByteArray) : MlirParserM BlockPtr := do
       | throw "internal error: failed to create block"
     setContext ctx
     /- Notify the parsing context that the block is forward declared. -/
-    modifyThe MlirParserState fun s =>
+    modifyThe (MlirParserState) fun s =>
```
Comment (math-fehr) [inline Veir/Parser/MlirParser.lean]:
```suggestion
    modifyThe MlirParserState fun s =>
```

File: Veir/Parser/MlirParser.lean [hunk 12]
```diff
@@ -357,7 +359,7 @@ partial def parseOptionalOp (ip : Option InsertPoint) : MlirParserM (Option Oper
   let ctx ← getContext
   setContext Inhabited.default
 
-  let some (ctx, op) := Rewriter.createOp ctx opId outputTypes operands blockOperands regions properties ip (by sorry) (by sorry) (by sorry) (by sorry) (by sorry)
+  let some (ctx, op) := Rewriter.createOp (opInfo := OpCode) ctx opId outputTypes operands blockOperands regions properties ip (by sorry) (by sorry) (by sorry) (by sorry) (by sorry)
```
Comment (math-fehr) [inline Veir/Parser/MlirParser.lean]: Why is this needed? Shouldn't this be inferred from `ctx`?

File: Veir/Parser/MlirParser.lean [hunk 13]
```diff
@@ -380,7 +382,7 @@ partial def parseOp (ip : Option InsertPoint) : MlirParserM OperationPtr := do
 /--
   Parse a region.
 -/
-partial def parseRegion : MlirParserM RegionPtr := do
+partial def parseRegion: MlirParserM RegionPtr := do
```
Comment (math-fehr) [inline Veir/Parser/MlirParser.lean]: unneeded change?
```suggestion
partial def parseRegion : MlirParserM RegionPtr := do
```

File: Veir/PatternRewriter/Basic.lean [hunk 14]
```diff
@@ -97,16 +102,18 @@ def Worklist.createFromContext (ctx: IRContext) : Worklist := Id.run do
...
   ctx_fib : ctx.FieldsInBounds
 
+variable {rewriter : PatternRewriter opInfo}
+
 namespace PatternRewriter
 
-private def addUseChainUserInWorklist (rewriter: PatternRewriter) (useChain: Option OpOperandPtr) (maxIteration : Nat)
-    (huc : useChain.maybe OpOperandPtr.InBounds rewriter.ctx := by grind) : PatternRewriter :=
+private def addUseChainUserInWorklist (rewriter: PatternRewriter opInfo) (useChain: Option OpOperandPtr) (maxIteration : Nat)
+    (huc : useChain.maybe OpOperandPtr.InBounds rewriter.ctx := by grind) : (PatternRewriter opInfo) :=
```
Comment (math-fehr) [inline Veir/PatternRewriter/Basic.lean]:
```suggestion
    (huc : useChain.maybe OpOperandPtr.InBounds rewriter.ctx := by grind) : PatternRewriter opInfo :=
```

File: Veir/Parser/MlirParser.lean (hunk 12 above)
Comment (tobiasgrosser) [reply Veir/Parser/MlirParser.lean]: This is not needed. I dropped it.

File: Veir/IR/Basic.lean [hunk 15]
```diff
@@ -163,7 +163,7 @@ deriving Inhabited, Repr, Hashable
 /--
 An MLIR operation.
 -/
-structure Operation where
+structure Operation (opInfo : Type) [OpInfo opInfo] where
```
Comment (ineol) [inline Veir/IR/Basic.lean]: If `opInfo` is a type, shouln't it be `OpInfo`?

Also, do we expect that eventually we need into about not just operations and all it `Info` or somehting like this?

File: Veir/IR/Basic.lean [hunk 16]
```diff
@@ -172,31 +172,33 @@ structure Operation where
   -- We do not support those features yet :
   -- location : Location
   -- orderIndex : Nat
-  opType : OpCode
+  opType : opInfo
   attrs : DictionaryAttr
   -- This should be replaced with an arbitrary user object
-  properties : propertiesOf opType
+  properties : OpInfo.propertiesOf opType
```
Comment (ineol) [inline Veir/IR/Basic.lean]: We could also write `opInfo.propertiesOf opType` and make `OpInfo` a structure instead of a typeclass? I don't really have a good idea of the pros and cons.

File: Veir/IR/Basic.lean [hunk 17]
```diff
@@ -231,17 +233,19 @@ The owning context of an MLIR module.
...
   nextID : Nat
 deriving Inhabited, Repr
 
+variable {ctx ctx' : IRContext opInfo}
+
 /-! Empty objects. -/
 
 @[expose]
-def Operation.empty (opType : OpCode) (prop : propertiesOf opType) : Operation :=
+def Operation.empty (opType : opInfo) (prop : OpInfo.propertiesOf opType) : (Operation opInfo) :=
```
Comment (ineol) [inline Veir/IR/Basic.lean]: The parens around `Operation opInfo` aren't required.

Comment (ineol) [reply Veir/IR/Basic.lean]: (same for a few instances below)

Comment (tobiasgrosser) [reply Veir/IR/Basic.lean]: Fixed.

File: Veir/IR/Basic.lean (hunk 15 above)
Comment (tobiasgrosser) [reply Veir/IR/Basic.lean]: Fixed.

File: Veir/IR/Basic.lean (hunk 16 above)
Comment (tobiasgrosser) [reply Veir/IR/Basic.lean]: I also do not understand the tradeoffs here. I guess we can keep it as is if the performance checks out.
